* D:\projects\electronics\SatSDR\simulation\mc1496_balanced_mixer.asc
XU1 N019 N021 N021 N018 N024 N025 NC_01 N026 NC_02 VP1 NC_03 N022 NC_04 0 MC1496
V1 VCC 0 12
R1 VCC VP1 1k
R2 VP1 VP2 820
R3 VP2 0 1k
C1 VP2 0 100n
C2 VP1 0 100n
R4 VP1 N026 50
C3 N026 LOin 10n
R5 N019 0 10k
R6 N018 0 10k
L1 N017 N019 1µ
R7 VP2 N017 150
C4 N017 0 47n
R8 VP2 N018 150
C5 N018 0 47n
R9 N024 VCC 6.8k
C6 N019 RFin 10n
L2 N022 N020 3µ
L3 N020 N025 3µ
L4 0 N023 3µ
R10 N020 VCC 1k
V2 N027 N028 SINE(0 {mag} {f+100k}) AC 20u
C8 N020 0 100n
C10 VP2 0 10µ
C11 VP1 0 10µ
C12 N020 0 10µ
Q1 N012 N014 N016 0 BC547C
L5 P001 N014 10µ
L6 N009 N012 10µ
R12 N009 P001 50k
R13 VCC N009 1k
V4 LOin 0 SINE(0 100m 137.5Meg)
B1 N040 0 V=0.0001*white(time*400*1e6)
R14 N029 N040 50
R11 N039 0 50
C9 N029 0 107.7p
C14 N030 N029 15.48p
L7 N030 N031 100n
C16 N031 0 575.4p
C17 N032 N031 13.86p
L8 N032 N033 100n
C18 N033 0 755.1p
C19 N034 N033 13.78p
L9 N034 N035 100n
C20 N035 0 755.1p
C21 N036 N035 13.86p
L10 N036 N037 100n
C23 N038 N037 15.48p
L11 N038 N039 100n
C22 N037 0 575.4p
C25 N039 0 107.7p
C24 N013 N012 100n
C13 0 N025 50p
C26 N022 0 50p
C7 sigOut N023 100n
C28 N022 N025 100p
V3 N028 0 SINE(0 {mag} {f-100k}) AC 20u
V5 RFin N027 SINE(0 {mag} {f}) AC 20u
Q2 N010 N013 N015 0 BC547C
R15 N010 N013 33k
R17 VCC N010 1.5k
C15 N003 N010 400n
R19 N015 0 10
C29 N015 0 100n
XU2 N011 N006 VCC 0 N007 NE5532
R16 N011 0 10k
R18 N011 VCC 10k
C31 N011 0 100n
R20 N003 0 20k
R21 N003 VCC 20k
R22 N006 N003 1k
R23 N007 N006 10k
Q3 N001 sigOut N005 0 BC547C
Q4 N001 N005 N008 0 BC547C
R24 N008 0 10
R25 N005 0 220
R26 N002 N001 1000
L12 VCC N002 100µ
R27 sigOut 0 6200
R28 N001 sigOut 4500
C32 N014 N001 100n
R29 out 0 10k
C33 out N007 400n
R30 N004 out 10k
V6 N004 0 3
R31 N013 0 28k
R32 N016 0 10
C30 N006 N003 100p
.model NPN NPN
.model PNP PNP
.lib C:\Users\Surya\AppData\Local\LTspice\lib\cmp\standard.bjt
K L4 L2 L3 1
.tran 0 60u 0
* .ac lin 100 1k 5Meg
.param f=137.9Meg mag=1u
* .step param f 136Meg 140Meg 500k
* .noise V(out) V6 dec 100 1k 2Meg
.lib MC1496.lib
.lib NE553x.lib
.backanno
.end
